US07462624B2
Step A: 5-(3-methyl-1H-1,2,4-triazol-5-yl)-N-pentyl-1H-imidazol-4-amine
To the mixture of 4-(pentylamino)-1H-imidazole-5-carbonitrile (0.40 g, 2 mmol), acetic acid, hydrazide (0.33 g, 4.5 mmol) in 1-butanol (10 mL) was added potassium carbonate (0.10 g, 0.72 mmol). The mixture was sealed and stirred at 165° C. for 14 hours. The reaction mixture was diluted with water and extracted with ethyl acetate three times. The combined organic layers were dried with sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative LCMS (method A) to yield the desired product (45 mg, 10% yield). LCMS calculated for C11H19N6(M+H): 235.2; found: 235.1.

reactant | 4-(pentylamino)-1H-imidazole-5-carbonitrile | 2 mmol, 0.40 g | C(CCCC)NC=1N=CNC1C#N | C9H14N4
reactant | acetic acid, hydrazide | 4.5 mmol, 0.33 g | C(C)(=O)NN | C2H6N2O
reactant | potassium carbonate | 0.72 mmol, 0.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | 10 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 5-(3-methyl-1H-1,2,4-triazol-5-yl)-N-pentyl-1H-imidazol-4-amine | 45 mg, 10% yield | CC1=NNC(=N1)C1=C(N=CN1)NCCCCC | C11H18N6
